US08067445B2
Step 4: (2′-Ethylaminomethyl-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and ethylamine (2M in THF).

reactant | (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H12F4O3
reactant | ethylamine | 2M | C(C)N | C2H7N
product | (2′-Ethylaminomethyl-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H19F4NO2
